US09416132B2
78. trans-N1-(tert-Butyl)-N4-(3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)cyclohexane-1,4-diamine (EX. 8-78)
To a 0° C. solution of 4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexanone (80 mg, 0.23 mmol) and t-Butylamine (17.2 mg, 0.23 mmol) in CH2Cl2 (1.2 mL) was added dropwise Ti(Oi-Pr)4 (0.27 mL, 0.92 mmol). The resulting mixture was stirred at room temperature overnight. LCMS showed the reaction was complete. The mixture was poured into water (150 mL) and extracted with EtOAc (100 mL*3). The organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by prep. HPLC to give EX. 8-78 (15 mg, 16.5%) as a white solid.

reactant | 4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexanone | 0.23 mmol, 80 mg | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)NC2CCC(CC2)=O | C18H17ClN4O
reactant | t-Butylamine | 0.23 mmol, 17.2 mg | C(C)(C)(C)N | C4H11N
reactant | water | 150 mL | O | H2O
solvent | CH2Cl2 | 1.2 mL | C(Cl)Cl | CH2Cl2
product | trans-N1-(tert-Butyl)-N4-(3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)cyclohexane-1,4-diamine | C(C)(C)(C)N[C@@H]1CC[C@H](CC1)NC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)Cl | C22H28ClN5
